US05604229
(1) 2-Acetamido-2-[2-(4-octyloxyphenyl)ethyl]-1,3-propanediol Diacetate
10% Palladium carbon (0.1 g) was added to a solution (30 ml) of 2-acetamido-2-[2-{4-(7-octenyloxy)phenyl}ethyl]-1,3propanediol diacetate (1.27 g) in ethanol and the mixture was stirred at ordinary temperature and at atmospheric pressure for 6 hours under a hydrogen atmosphere. The catalyst was filtered off and the filtrate was concentrated. The residue was collected by filtration to give the subject compound (1.18 g).

reactant | 2-acetamido-2-[2-{4-(7-octenyloxy)phenyl}ethyl]-1,3propanediol diacetate | 30 ml, 1.27 g | C(C)(=O)OCC(COC(C)=O)(CCC1=CC=C(C=C1)OCCCCCCC=C)NC(C)=O | C25H37NO6
solvent | ethanol | C(C)O | C2H6O
catalyst | Palladium carbon | 0.1 g | [C].[Pd]
product | 2-Acetamido-2-[2-(4-octyloxyphenyl)ethyl]-1,3-propanediol Diacetate | 1.18 g | C(C)(=O)OCC(COC(C)=O)(CCC1=CC=C(C=C1)OCCCCCCCC)NC(C)=O | C25H39NO6
